US06479487B1
1-(3-Methoxybenzyl)-4-piperidone oxime is prepared from 1-(3-methoxybenzyl)-4-piperidone and hydroxylamine hydrochloride essentially as described above in Example 38, Scheme C, step b.

reactant | 1-(3-methoxybenzyl)-4-piperidone | COC=1C=C(CN2CCC(CC2)=O)C=CC1 | C13H17NO2
reactant | hydroxylamine hydrochloride | Cl.NO
product | 1-(3-Methoxybenzyl)-4-piperidone oxime | COC=1C=C(CN2CCC(CC2)=NO)C=CC1 | C13H18N2O2
